US07544689B2
(3RS,4S)-2,2-Dimethyl-4-(trityl-amino)-hexan-3-ol
To a stirred suspension of CuBr.SMe2 (1.37 g, 2.2 eq, 6.66 mmol) in Et2O (100 mL) under an argon atmosphere at −78° C., was added tert-butyl lithium (1.5 M in pentane, 8.0 mL, 4 eq, 12.0 mmol) dropwise and the solution allowed to warm to room temperature. The mixture was recooled to −55° C., to which was added a solution of (S)-2-(trityl-amino)-butyraldehyde (1 g, 1 eq, 3.03 mmol) in Et2O (25 mL) dropwise with stirring, and stirred at this temperature for 3 h. To the reaction mixture was added a saturated aqueous solution of NH4Cl (100 mL) and allowed to warm to room temperature over 16 h. The reaction mixture was extracted with Et2O (2×200 mL), and the combined organic phase washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo. The residue was purified by silica gel column chromatography, eluted with hexane: Et2O (100:0→90:10) to afford the title compound as a light yellow oil. Yield: 0.47 g (40%). (53% de 3R,4S: 47% de 3S,4S). 1H-NMR (d6-DMSO, 250 MHz): δ0.37 & 0.87 (2×t, 3H, J=7.46 Hz, —NHCH (CH2CH3)CH(C(CH3)3)OH), 0.58 & 0.71 (2×s, 9H, —NHCH(CH2CH3)CH (C(CH3)3)OH), 1.38-1.52 (m, 2H, —NHCH(CH 2CH3) CH(C(CH3)3)OH), 2.00 (m, 1H, —NHCH(CH2CH3)CH(C(CH3)3)OH), 2.28 (m, 1H, —NHCH(CH2CH3)CH (C(CH3)3)OH), 2.95 (m, 1H, —NHCH(CH2CH3)CH(C(CH3)3)OH), 4.24 & 4.79 (2×d, 1H, J=5.21 & 6.16 Hz, —NHCH(CH2CH3)CH(C( CH3)3)OH), 7.15-7.53 (m, 15H, 3×Ph).

reactant | SMe2 | 6.66 mmol, 1.37 g, 2.2 eq | S(C)C | C2H6S
reactant | tert-butyl lithium | 12.0 mmol, 1.5 M, 8.0 mL, 4 eq | C(C)(C)(C)[Li]
reactant | (S)-2-(trityl-amino)-butyraldehyde | 3.03 mmol, 1 g, 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](C=O)CC | C23H23NO
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | (3RS,4S)-2,2-Dimethyl-4-(trityl-amino)-hexan-3-ol | CC(C)(C([C@H](CC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C | C27H33NO
